US07173040B2
A mixture of (±)-4-[[4-(3-chlorophenyl)-1,2-dihydro-1-methyl-2-oxo-6-quinolinyl]hydroxy(1-methyl-1H-imidazol-5yl)methyl]benzonitrile (0.00121 mol), obtained in stage b), in thionyl chloride (6 ml) was stirred at room temperature for 2 hours. The solvent was evaporated. The residue was taken up in DCM. The solvent was evaporated till dryness, yielding 4-[chloro[4-(3-chlorophenyl)-1,2-dihydro-1-methyl-2-oxo-6-quinolinyl](1-methyl-1H-imidazol-5-yl)methyl]-benzonitrile. The product was used without further purification in the next reaction step

reactant | (±)-4-[[4-(3-chlorophenyl)-1,2-dihydro-1-methyl-2-oxo-6-quinolinyl]hydroxy(1-methyl-1H-imidazol-5yl)methyl]benzonitrile | 0.00121 mol | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C1=CC=C(C#N)C=C1)(C1=CN=CN1C)O)C)=O | C28H21ClN4O2
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-[chloro[4-(3-chlorophenyl)-1,2-dihydro-1-methyl-2-oxo-6-quinolinyl](1-methyl-1H-imidazol-5-yl)methyl]-benzonitrile | ClC(C1=CC=C(C#N)C=C1)(C1=CN=CN1C)C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)Cl | C28H20Cl2N4O
